US05439570
2,5-Bis[[5-(benzyloxycarbonyl)-3-ethyl-4-methylpyrrol-2-yl]methyl]-3,4-diethylpyrrole (2C, FIG. 2A).
3,4-Diethylpyrrole (2A, FIG. 2A)28 (0.6 g, 4.9 mmol), benzyl 5-(acetoxymethyl)-3-methyl-4-ethyl-pyrrole-2-carboxylate (2B, FIG. 2A)29 (2.5 g, 7.9 mmol), and p-toluenesulfonic acid (0.15 g) were dissolved in 60 mL of absolute ethanol and heated at 60° C. for 8 h under nitrogen. The resulting suspension was reduced in volume to 30 mL and placed in the freezer for several hours. The product was then collected by filtration, washed with a small amount of cold ethanol, and recrystallized from dichloromethane-ethanol to afford a white powder (2.07 g, 82%): mp 211° C. NMR spectra and high resolution mass spectral data were obtained as described and are reported 13a.

reactant | 3,4-Diethylpyrrole | C(C)C1=CNC=C1CC | C8H13N
reactant | benzyl 5-(acetoxymethyl)-3-methyl-4-ethyl-pyrrole-2-carboxylate | C(C)(=O)OCC1=C(C(=C(N1)C(=O)OCC1=CC=CC=C1)C)CC | C18H21NO4
reactant | p-toluenesulfonic acid | 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2,5-Bis[[5-(benzyloxycarbonyl)-3-ethyl-4-methylpyrrol-2-yl]methyl]-3,4-diethylpyrrole | 2.07 g, 82% | C(C1=CC=CC=C1)OC(=O)C1=C(C(=C(N1)CC=1NC(=C(C1CC)CC)CC=1NC(=C(C1CC)C)C(=O)OCC1=CC=CC=C1)CC)C | C40H47N3O4
